US05434150
2-(4-Aminomethyl-phenyl)-1-(3-amino-propyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-benzimidazole
3 g of 1-(3-amino-propyl)-2-(4-cyano-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-benzimidazole are treated in a mixture of 50 ml of methanol and 10 ml of methanolic hydrochloric acid with 5 bars of hydrogen in the presence of 1 g of 10% palladium/charcoal for 20 hours at ambient temperature. After the catalyst has been filtered off the mixture is evaporated to dryness in vacuo and the residue is purified by chromatography on silica gel (eluant:methanol/2N ammonia=5:1.5 to 5:2). Yield: 1.5 g (55% of theory), Rf value: 0.24 (silica gel; methanol/2N ammonia=5:1.5 after developing twice)

reactant | 1-(3-amino-propyl)-2-(4-cyano-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-benzimidazole | 3 g | NCCCN1C(=NC2=C1C=CC(=C2)C(=O)NCCC(=O)OC)C2=CC=C(C=C2)C#N | C22H23N5O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
solvent | hydrochloric acid | 10 ml | Cl | ClH
catalyst | palladium/charcoal | 1 g | [Pd] | Pd
product | 2-(4-Aminomethyl-phenyl)-1-(3-amino-propyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-benzimidazole | NCC1=CC=C(C=C1)C1=NC2=C(N1CCCN)C=CC(=C2)C(=O)NCCC(=O)OC | C22H27N5O3
